// adc_dac_ideal_4b_ramp: 4-bit ideal ADC → DAC with ramp input
//
// Ramp input from 0 to VDD over 200 ns → all 16 codes exercised.
// ADC samples at 1 GHz (clk period = 1 ns); maxstep = 200 ps.
//
simulator lang=spectre
global 0

ahdl_include "adc_ideal_4b.va"
ahdl_include "dac_ideal_4b.va"

parameters vdd=0.9 fs=1e9

// Supply rails
Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// Sampling clock: 1 GHz
Vclk (clk 0) vsource type=pulse val0=0 val1=vdd period=1n \
             rise=50p fall=50p

// Reset: active-low for first 10 ns (10 clock cycles)
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  9.5n 0  10n vdd  200n vdd]

// Input: linear ramp from 0 to VDD over 50 ns
Vvin (vin 0) vsource type=pwl wave=[0 0  50n 0.9]

// ADC: vin clk vdd vss rst_n -> dout[3:0]
IADC (vin clk vdd vss rst_n dout_3 dout_2 dout_1 dout_0) \
      adc_ideal_4b

// DAC: din[3:0] vdd vss rst_n -> vout  (combinational)
IDAC (dout_3 dout_2 dout_1 dout_0 vdd vss rst_n vout) \
      dac_ideal_4b

tran tran stop=50n maxstep=100p
save vin:3f clk:2e rst_n:d vout:3f dout_3:d dout_2:d dout_1:d dout_0:d
